US06906196B2
A solution of phenylacetylene (2 mmol), chlorohydroquinone(HQ-Cl) (0.4 mmol), molybdovanadophosphate (NPMoV) (35 mg) and palladium (II) acetate (50 mg) in methanol (10 mL) is stirred under CO/O2 (10 atm/0.5 atm) at 25° C. for 15 h. The reaction is then quenched with wet ether and the product is extracted with n-hexane. After removal of the solvent under reduced pressure, the product is isolated by column chromatography over silica gel (hexane ethyl acetate 5:1) to give pure methyl phenylpropiolate.

reactant | phenylacetylene | 2 mmol | C1(=CC=CC=C1)C#C | C8H6
reactant | chlorohydroquinone | 0.4 mmol | ClC1=C(O)C=CC(=C1)O | C6H5ClO2
reactant | methanol | 10 mL | CO | CH4O
catalyst | palladium (II) acetate | 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl phenylpropiolate | C1(=CC=CC=C1)C#CC(=O)OC | C10H8O2
